US04282239
N-(4-[2-(1-Oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl-urea
4.8 g of butyl urea are dissolved in 100 ml of tetrahydrofurane and, while stirring, 1.5 g of 80% sodium hydride (in oil) are added. The mixture is heated for 3 hours to 60° C. whereupon 7.6 g of 4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzene-sulfochloride in 100 ml of tetrahydrofurane are added while cooling. The temperature is slowly raised to 60°-70° C. and stirring is continued at that temperature for 3 hours. The solvent is removed under reduced pressure, water is added to the residue, the mixture is filtered and the filtrate is acidified with dilute hydrochloric acid. After recrystallization from dilute acetone, the N-(4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]benzenesulfonyl)-N'-butyl-urea melts at 189°-190° C.

reactant | butyl urea | 4.8 g | C(CCC)NC(=O)N | C5H12N2O
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 4-[2-(1-oxo-isoindoline-2-carboxamido)-ethyl]-benzene sulfochloride | 7.6 g | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=CC=C1.S(=O)(=O)(O)Cl
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | N-(4-[2-(1-Oxo-isoindoline-2-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl-urea | O=C1N(CC2=CC=CC=C12)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCCC | C22H26N4O5S
